// Generated for: spectre
// Generated on: Feb 12 22:20:20 2018
// Design library name: ajgrosze_scratch
// Design cell name: q1_an
// Design view name: schematic
simulator lang=spectre
global 0
include "/home/ecelrc/students/agroszewski/lpr/hw1/test/32nm_LP.pm"

// Library name: ajgrosze_scratch
// Cell name: q1_an
// View name: schematic
V0 (net5 0) vsource dc=1.2 type=dc
M0 (Vout Vin 0 0) nmos w=320.00n l=32.000n
M1 (Vout Vin net5 net5) pmos w=320.00n l=32.000n
include "./_graphical_stimuli.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=10n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save V0:p V0:p M1:d M0:d 
saveOptions options save=allpub
